US07872141B2
1.295 kg (rac)-trans-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester were hydrogenated at room temperature, in 6.5 l EtOH with 100 g 10% Pd/C catalyst. After completion of the reaction, the catalyst was filtered and a solution of 935 g di-t-butyl-dicarbonate (1.01 equiv) in 480 ml EtOH was added. After completion of the reaction (in process control by GC), the reaction mixture was evaporated, dissolved in 9.7 l THF. 8 ml water were added, followed by 5.3 g DMAP (0.01 equiv.). The reaction mixture was stirred 30 min. at room temperature and concentrated to dryness. The residue was dissolved in 6.5 l MTBE, washed with 1.29 l 5% aqueous citric acid solution, 3.3 l 10% aqueous NaHCO3 solution and 3.3 l water. The aqueous phases were re-extracted sequentially with 6.5 l MTBE. The combined organic phases were dried over Na2SO4 and concentrated to dryness at 40° C. to give 1.233 kg of crude (rac)-trans-N-Boc-pyrrolidine-3,4-dicarboxylic acid diethyl ester.

reactant | (rac)-trans-1-Benzyl-pyrrolidine-3,4-dicarboxylic acid diethyl ester | 1.295 kg | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)CC1=CC=CC=C1 | C17H23NO4
reactant | di-t-butyl-dicarbonate | 935 g, 1.01 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 6.5 l | CCO | C2H6O
catalyst | Pd/C | 100 g | [Pd] | Pd
solvent | EtOH | 480 ml | CCO | C2H6O
catalyst | DMAP | 5.3 g, 0.01 equiv. | CN(C)C=1C=CN=CC1 | C7H10N2
product | (rac)-trans-N-Boc-pyrrolidine-3,4-dicarboxylic acid diethyl ester | 1.233 kg | C(C)OC(=O)[C@@H]1CN(C[C@H]1C(=O)OCC)C(=O)OC(C)(C)C | C15H25NO6
